US05652271
A solution of 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile (163.6 g) in ether (130 ml) was added dropwise over 0.5 hours at ambient temperature under nitrogen to stirred methylmagnesium iodide (3M solution in ether; 300 ml), then the mixture was heated under reflux for 1 hour, diluted with ether (100 ml), heated under reflux for a further 2.5 hours, then stirred at ambient temperature for 18 hours. The resulting solid was collected by filtration, washed well with ether, and added in portions at <20° C. to a stirred mixture of concentrated hydrochloric acid (410 ml) and water (650 ml). The mixture was heated at 95° C. for 0.5 hours with occasional stirring then cooled to ambient temperature. The product was extracted into dichloromethane (3×200 ml), the combined extracts were dried over magnesium sulphate, and the solvent removed in vacuo to leave 1-[1-(3,4-dichlorophenyl)-cyclobutyl]ethanone as a dark red oil (172.7 g) which was used without purification.

reactant | 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile | 163.6 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
reactant | methylmagnesium iodide | 3M, 300 ml | C[Mg]I
reactant | ether | 130 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
product | 1-[1-(3,4-dichlorophenyl)-cyclobutyl]ethanone | 172.7 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C)=O | C12H12Cl2O
